### PR TITLE
feat: add lemmas relating `insert`/`insertIfNew` and `toList` on `DTreeMap`/`DHashMap`-derived containers

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds lemmas that relate `insert`/`insertIfNew` and `toList` on `DTreeMap`/`DHashMap`-derived containers.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 42ded564bd27a6ac0f64c1daf4870f67472e1f59 --onto 1d0d3915ca79d0875a757fc5061121ae9cd58543`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-09 16:21:23)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 42ded564bd27a6ac0f64c1daf4870f67472e1f59 --onto 19e1fe55f33a8aadc4243da32828b70a4b4677cc`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-10 16:45:44)

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 1]
```diff
@@ -660,6 +660,42 @@ theorem get_insert! [TransOrd α] [LawfulEqOrd α] (h : t.WF) {k a : α} {v : β
         t.get a (contains_of_contains_insert! h h₁ h₂) := by
   simpa only [insert_eq_insert!] using get_insert h (h₁ := by simpa [insert_eq_insert!])
 
+theorem toList_insert_perm [BEq α] [TransOrd α] [LawfulBEqOrd α] (h : t.WF) {k : α} {v : β k} :
+    (t.insert k v h.balanced).1.toList.Perm (⟨k, v⟩ :: t.toList.filter (¬k == ·.1)) := by
+  simp_to_model
+  refine List.Perm.trans (toListModel_insert _ h.ordered) <| List.Perm.trans (List.insertEntry_perm_filter _ _ h.ordered.distinctKeys) ?_
+  simp
+
+theorem insert!_toList_perm [BEq α] [TransOrd α] [LawfulBEqOrd α] (h : t.WF) {k : α} {v : β k} :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean]: This should be called `toList_insert!_perm`.

**Review by TwoFX — APPROVED** [review]
Looks good, just one naming issue. Feel free to merge after fixing.
